US08486297B2
20.0 g (80.5 mmol) of 2-(3-fluoro-4-pentylphenyl)thiophene are initially introduced in 200 ml of THF, and 50.0 ml of n-BuLi (79.6 mmol, 15% soln. in hexane) are added dropwise to the solution at a temperature in the range 0-5° C. After 1 h at 0° C., the batch is cooled to −70° C., and 4.1 ml (80.0 mmol) of bromine are metered in. When the addition is complete, the mixture is stirred at 0° C. for 1 h. The batch is diluted with MTBE and washed successively with 2 N HCl, 10% sodium hydrogensulfite soln., sat. sodium hydrogencarbonate soln. and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to completion. The crude product is purified by column chromatography (SiO2, n-heptane). 2-Bromo-5-(3-fluoro-4-pentylphenyl)thiophene is obtained as a yellowish liquid.

reactant | 2-(3-fluoro-4-pentylphenyl)thiophene | 80.5 mmol, 20.0 g | FC=1C=C(C=CC1CCCCC)C=1SC=CC1 | C15H17FS
reactant | n-BuLi | 79.6 mmol, 50.0 ml | [Li]CCCC
reactant | bromine | 80.0 mmol, 4.1 ml | BrBr | Br2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 2-Bromo-5-(3-fluoro-4-pentylphenyl)thiophene | BrC=1SC(=CC1)C1=CC(=C(C=C1)CCCCC)F | C15H16BrFS
